US04698340
A mixture of 6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid (12.5 g), triethylamine (4.57 ml) and diphenylphosphorylazide (7.07 ml) in benzene (125 ml) was refluxed for 2 hours and to the reaction mixture was added 2-dimethylaminoethylamine (3.47 g). After the reflux was continued for 2 hours, the reaction mixture was poured into a mixture of a diethyl ether (100 ml) and saturated sodium hydrogen carbonate. The separated organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on alumina eluting with chloroform. The fractions containing the desired product were combined and concentrated in vacuo. The residue was recrystallized from diethyl ether to afford 5-[3-(2-dimethylaminoethyl)ureido]-6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenylpyrimidine.

reactant | 6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid | 12.5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])SC)C(=O)O | C19H15N3O4S
reactant | diphenylphosphorylazide | 7.07 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-dimethylaminoethylamine | 3.47 g | CN(CCN)C | C4H12N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | triethylamine | 4.57 ml | C(C)N(CC)CC | C6H15N
product | 5-[3-(2-dimethylaminoethyl)ureido]-6-methyl-4-(2-methylthio-5-nitrophenyl)-2-phenylpyrimidine | CN(CCNC(NC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=C(C=CC(=C1)[N+](=O)[O-])SC)=O)C | C23H26N6O3S
